US05859006
Methyl 1,2,3,4-tetrahydro-1-(4-hydroxy-3-methoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis isomer
The same method but starting from racemic tryptophan methyl ester and 4-hydroxy-3-methoxybenzaldehyde gave the title compound as a cream solid m.p.:195° C.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 4-hydroxy-3-methoxybenzaldehyde | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
product | Methyl 1,2,3,4-tetrahydro-1-(4-hydroxy-3-methoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | OC1=C(C=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC)OC | C20H20N2O4
